US07713994B2
C-(1H-Indol-4-yl)-methylamine
An amount of 1H-Indole-4-carbaldehyde O-methyl-oxime (50 mg, 0.30 mmol) is dissolved in ethanol (5 mL). Then hydrogen chloride (0.217 mL) is added, followed by 10% Pd/C (5.0 mg). After hydrogenation at 35 psi for 3 h, the solution is filtered through Celite and evaporated to dryness. The residue is recrystallized from ethyl acetate to give 42 mg of crude product as an orange residue. MS (ESI) m/z 147.2 (M+1).

reactant | 1H-Indole-4-carbaldehyde O-methyl-oxime | 0.30 mmol, 50 mg | CON=CC=1C=2C=CNC2C=CC1 | C10H10N2O
reactant | hydrogen chloride | 0.217 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | 5.0 mg | [Pd] | Pd
product | C-(1H-Indol-4-yl)-methylamine | 42 mg | N1C=CC2=C(C=CC=C12)CN | C9H10N2
